US07314883B2
(R)-Methyl 2-amino-3-(7-methyl-1H-benzo[d][1,2,3]triazol-5-yl)propanoate
Benzyl (R)-1-(methoxycarbonyl)-2-(7-methyl-1H-benzo[d][1,2,3]triazol-5-yl)ethylcarbamate (146 mg, 0.40 mmol) was dissolved in 12 mL of a solution of 4.4% formic acid in methanol. The reaction flask containing this solution was equipped with a magnetic stirbar and then flushed with nitrogen over several minutes. To the solution was added palladium on carbon (10%, 200 mg) and the reaction was stirred for 16 h at room temperature under nitrogen atmosphere. The reaction mixture was filtered through a pad of Celite® washing the pad several times with methanol. The filtrate was evaporated to give the title compound (quantitative yield). 1H-NMR (CDCl3, 300 MHz) δ 8.40 (bs, 1H), 7.55 (s, 1H), 7.14 (s, 1H), 4.29-4.24 (m, 1H), 3.78 (s, 3H), 3.39-3.19 (m, 2H), 2.69 (s, 3H). LC/MS: tR=1.18 min, 235 (MH)+.

reactant | Benzyl (R)-1-(methoxycarbonyl)-2-(7-methyl-1H-benzo[d][1,2,3]triazol-5-yl)ethylcarbamate | 0.40 mmol, 146 mg | COC(=O)[C@@H](CC1=CC2=C(NN=N2)C(=C1)C)NC(OCC1=CC=CC=C1)=O | C19H20N4O4
solvent | formic acid | C(=O)O | CH2O2
solvent | methanol | CO | CH4O
product | (R)-Methyl 2-amino-3-(7-methyl-1H-benzo[d][1,2,3]triazol-5-yl)propanoate | quantitative yield | N[C@@H](C(=O)OC)CC1=CC2=C(NN=N2)C(=C1)C | C11H14N4O2
